US04783495
Dimethyl-bis(3,5-di-tert-butyl-4-hydroxyphenyl)silane
To a solution of 9.8 g (16 mmol) of dimethylbis(3,5-di-tert-butyl-4-trimethylsilyloxyphenyl)silane in 50 ml of tetrahydrofuran is slowly added 10.6 g (32 mmol) of tetrabutylammonium fluoride trihydrate. The reaction mixture is stirred for 1 hour at room temperature and to it is added 0.8 g (14 mmol) of glacial acetic acid. The reaction mixture is poured into 250 ml of water and the solution is extracted (2×125 ml) with methylene chloride. The organic phase is dried over anhydrous sodium sulfate and the solvent is removed in vacuo to give 7.3 g of an orange residue which crystallizes on standing. The residue is recrystallized from heptane to give 1.2 g (17%) of a white solid; mp. 186°-188° C.

reactant | dimethylbis(3,5-di-tert-butyl-4-trimethylsilyloxyphenyl)silane | 16 mmol, 9.8 g | C[Si](C1=CC(=C(C(=C1)C(C)(C)C)O[Si](C)(C)C)C(C)(C)C)(C1=CC(=C(C(=C1)C(C)(C)C)O[Si](C)(C)C)C(C)(C)C)C | C36H64O2Si3
reactant | tetrabutylammonium fluoride trihydrate | 32 mmol, 10.6 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 14 mmol, 0.8 g | C(C)(=O)O | C2H4O2
reactant | water | 250 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Dimethyl-bis(3,5-di-tert-butyl-4-hydroxyphenyl)silane | 7.3 g | C[Si](C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C | C30H48O2Si
